US07399865B2
(E)-N-{4-[3-chloro-4-(1,3-thiazol-2-ylsulfanyl)anilino]-3-cyano-7-methoxy-6-quinolinyl}-4-[(2-methoxyethyl)(methyl)amino]-2-butenamide was prepared by adding dropwise, 3.43 g (18.71 mmol, 1.95 mL) 4-bromocrotonyl chloride in 12 mL THF over 45 minutes to a stirred solution of 4.7 g (10.69 mmol) 6-amino-4-[3-chloro-4-(thiazol-2-ylsulfanyl)-phenylamino]-7-methoxy-quinolin-3-carbonitrile in 588 mL THF containing 3.73 mL (21.36 mmol) diisopropylethylamine, at 0° C. under nitrogen. The reaction produced a mixture of 4-bromo-(and chloro)-but-2-enoic acid {4-[3-chloro-4-(thiazol-2-ylsulfanyl)-phenylamino]-3-cyano-7-methoxy-quinolin-6-yl}-amide. A 300 mL portion of the solution was cooled to 0° C. and 2.38 g (26.7 mmol) (2-methoxyethyl)-methylamine in 11 mL THF was added dropwise. After the reaction had warmed to room temperature, 401 mg (0.5 eq) of sodium iodide was added and the solution was stirred overnight. The solvents were evaporated to leave a red gum, which was partitioned between EtOAc and saturated NaHCO3. After standing overnight, the layers were separated and the organic layer was dried and evaporated. Chromatography of the residue on a short column of Kieselgel 60, eluting with EtOAc, then EtOAc/15% MeOH, and finally EtOAc/15% MeOH/1% Et3N yielded 1.3 g (41%) of the product as a yellow glass; HRMS (ESI) m/z 595.13338 (M)+1, Δ=−2.28 mmu.

reactant | 4-bromocrotonyl chloride | 18.71 mmol, 1.95 mL, 3.43 g | BrC/C=C/C(=O)Cl | C4H4BrClO
reactant | 6-amino-4-[3-chloro-4-(thiazol-2-ylsulfanyl)-phenylamino]-7-methoxy-quinolin-3-carbonitrile | 10.69 mmol, 4.7 g | NC=1C=C2C(=C(C=NC2=CC1OC)C#N)NC1=CC(=C(C=C1)SC=1SC=CN1)Cl | C20H14ClN5OS2
reactant | (2-methoxyethyl)-methylamine | 26.7 mmol, 2.38 g | COCCNC | C4H11NO
reactant | sodium iodide | 401 mg, 0.5 eq | [I-].[Na+]
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 11 mL | C1CCOC1 | C4H8O
solvent | THF | 21.36 mmol, 588 mL | C1CCOC1 | C4H8O
product | (E)-N-{4-[3-chloro-4-(1,3-thiazol-2-ylsulfanyl)anilino]-3-cyano-7-methoxy-6-quinolinyl}-4-[(2-methoxyethyl)(methyl)amino]-2-butenamide | ClC=1C=C(NC2=C(C=NC3=CC(=C(C=C23)NC(\C=C\CN(C)CCOC)=O)OC)C#N)C=CC1SC=1SC=CN1 | C28H27ClN6O3S2
